US05436242
9(a) 1-(2-Fluorophenyl)-2-nitro-1-butene
30 ml of acetic acid were added to 4.73 g (38.11 mmole) of 2-fluorobenzaldehyde, 4.41 g (49.49 mmole) of nitropropane and 3.23 g (41.90 mmole) of ammonium acetate, and the resulting mixture was heated under reflux, whilst stirring, for 4 hours. At the end of this time, the reaction mixture was cooled to room temperature, neutralized with an aqueous solution of sodium hydrogencarbonate and extracted with diethyl ether. The extract was dried over anhydrous magnesium sulfate, and then xylene was added to the solution. The mixture was concentrated by evaporation under reduced pressure, to give 7.4 g of the title compound as a pale yellow oil.

reactant | 2-fluorobenzaldehyde | 38.11 mmole, 4.73 g | FC1=C(C=O)C=CC=C1 | C7H5FO
reactant | nitropropane | 49.49 mmole, 4.41 g | [N+](=O)([O-])CCC | C3H7NO2
reactant | ammonium acetate | 41.90 mmole, 3.23 g | C(C)(=O)[O-].[NH4+]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 1-(2-Fluorophenyl)-2-nitro-1-butene | 7.4 g | FC1=C(C=CC=C1)C=C(CC)[N+](=O)[O-] | C10H10FNO2
